US09303007B2
To a flask containing a mixture of (S)-tert-butyl 2-(6-bromo-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate (4.5 g, 12 mmol) and bis(pinacolato)diboron (6.55 g, 25.8 mmol) in 1,4-dioxane (50 mL) was added potassium acetate (3.01 g, 30.7 mmol). The reaction flask was degassed in vacuo for 5 minutes and then purged with nitrogen. The catalyst Pd(Ph3P)4 (710 mg, 0.614 mmol) was added and the flask was capped and heated with an oil bath at 85° C. (bath temperature) for 16 h. The reaction mixture was concentrated in vacuo. The crude material was partitioned between CH2Cl2 and a saturated NaHCO3 solution and the aqueous layer was extracted with CH2Cl2. The combined organic phase was dried (brine, Na2SO4), filtered and concentrated in vacuo. The resulting material was purified with flash chromatography (sample was dry loaded on silica gel and eluted with 10-50% ethyl acetate/CH2Cl2) to provide (S)-tert-butyl 2-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate (2.80 g, 55% yield) as white solid. LC-MS retention time 1.493 min; calcd. for C22H32BN3O4: 413.25. found m/z 414.23 [M+H]+. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min and an analysis time of 4 min where Solvent A was 10% acetonitrile/90% water/0.1% TFA and Solvent B was 90% acetonitrile/10% water/0.1% TFA. 1H NMR (400 MHz, MeOD) δ ppm 7.81-8.08 (m, 1H), 7.40-7.68 (m., 2H), 4.95-5.13 (m, 1H), 3.68-0.3.79 (br s, 1H), 3.48-3.60 (br s, 1H), 2.35-2.52 (br s, 1H), 1.95-2.15 (m, 3H), 1.46 (s, 3H), 1.37 (s, 12H), 1.13 (s, 6H).

reactant | (S)-tert-butyl 2-(6-bromo-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate | 12 mmol, 4.5 g | BrC=1C=CC2=C(NC(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)C1 | C16H20BrN3O2
reactant | bis(pinacolato)diboron | 25.8 mmol, 6.55 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 30.7 mmol, 3.01 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.614 mmol, 710 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-butyl 2-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)pyrrolidine-1-carboxylate | 2.80 g, 55% yield | CC1(OB(OC1(C)C)C=1C=CC2=C(NC(=N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C)C1)C | C22H32BN3O4
